US08134007B2
4,4,5,5-Tetramethyl-2-[2-(2,2,2-trifluoroethyl)-phenyl]-[1,3,2]dioxaborolane
The mixture of compound 1-bromo-2-(2,2,2-trifluoroethyl)-benzene (Preparation 57, 15.0 g, crude, about 27.6 mmol), bis(pinacolato)diboron (10.5 g, 41.4 mmol), potassium acetate (8.1 g, 82.8 mmol) and 1,1′-[bis(diphenylphosphino)-ferrocene]dichloropalladium (II) (0.5 g, 0.68 mmol) in 1,4-dioxane (200 ml) was degassed for three times and heated at 80-90° C. for 14 hours. The reaction mixture was cooled then the solvent was removed in vacuo. The crude product was purified by column chromatography on silica gel eluting with petroleum ether to afford the title compound as a pale yellow oil (5.3 g, 67%).

reactant | 1-bromo-2-(2,2,2-trifluoroethyl)-benzene | about 27.6 mmol, 15.0 g | BrC1=C(C=CC=C1)CC(F)(F)F | C8H6BrF3
reactant | bis(pinacolato)diboron | 41.4 mmol, 10.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 82.8 mmol, 8.1 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4,4,5,5-Tetramethyl-2-[2-(2,2,2-trifluoroethyl)-phenyl]-[1,3,2]dioxaborolane | 5.3 g, 67% | CC1(OB(OC1(C)C)C1=C(C=CC=C1)CC(F)(F)F)C | C14H18BF3O2
